US08754075B2
5-Chloro-pyridine-2-carboxylic acid [3-((4R,5S)-2-amino-5-fluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (4R,5S)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate A8.1) and 5-chloro-pyridine-2-carboxylic acid following procedure I yielded the title compound as a white solid. MS (ISP): m/z=381.1 [M+H]+.

reactant | (4R,5S)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC[C@H]1F)N)C)F | C11H13F2N3O
reactant | 5-chloro-pyridine-2-carboxylic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
product | 5-Chloro-pyridine-2-carboxylic acid [3-((4R,5S)-2-amino-5-fluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC[C@H]([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)Cl)F | C17H15ClF2N4O2
